US07638521B2
a) 3-Guanidinocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride
20 cm3 of methanol and 14 cm3 (7 mmol) of a 0.5M solution of sodium methoxide in methanol are added to 0.67 g (7 mmol) of guanidine hydrochloride under an argon atmosphere. After stirring at a temperature in the region of 25° C. for 1 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is three times successively dissolved in 20 cm3 of dichloromethane and concentrated to dryness under reduced pressure (2.7 kPa). 40 cm3 of tetrahydrofuran, 40 cm3 of dichloromethane and 0.525 g (1.4 mmol) of 3-chlorocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride, suspended in 20 cm3 of tetrahydrofuran, are subsequently added thereto under an argon atmosphere. After stirring at a temperature in the region of 20° C. for 16 hours, the reaction mixture is concentrated to give a solid which is purified by flash chromatography [eluent: ethyl acetate/methanol (9/1 and then 8/2 by volume)]. After concentrating the fractions to dryness under reduced pressure (2.7 kPa), the product obtained is triturated in 20 cm3 of isopropyl ether and filtered off, resulting in 0.1 g of 3-guanidinocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride in the form of a white powder melting at 238° C. Mass spectrum (EI): m/e 397 (M+•), m/e 339 (base peak).

reactant | sodium methoxide | C[O-].[Na+]
reactant | guanidine hydrochloride | 7 mmol, 0.67 g | Cl.NC(=N)N
reactant | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
reactant | 3-chlorocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride | 1.4 mmol, 0.525 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)C(F)(F)F
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
solvent | methanol | 20 cm3 | CO | CH4O
product | 3-Guanidinocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride | Cl.N(C(=N)N)C(=O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)C(F)(F)F | InChI=1S/C20H14F3N5O.ClH/c21-20(22,23)11-5-6-13-15(9-11)26-8-7-17(13)28-10-14(18(29)27-19(24)25)12-3-1-2-4-16(12)28;/h1-10H,(H4,24,25,27,29);1H
